US06608078B2
A mixture of 1-benzyl-3,5-dimethyl-3-ethyl-4-hydroxypiperidine (2.9 g, 11.74 mmole) and 20% palladium hydroxide (0.5 g) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) for 8 hr at 35° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 3,5-dimethyl-3-ethyl-4-hydroxypiperidine as oil. Yield 1.7 g (93%), C9H19NO, m/z 158 (M+1).

reactant | 1-benzyl-3,5-dimethyl-3-ethyl-4-hydroxypiperidine | 11.74 mmole, 2.9 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)O)(CC)C | C16H25NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.5 g | [OH-].[Pd+2].[OH-]
product | 3,5-dimethyl-3-ethyl-4-hydroxypiperidine | CC1(CNCC(C1O)C)CC | C9H19NO
